US04560683
(a) (6R,7R)-3-Carbamoyloxymethyl-7-[(Z)-2-cyclopropylmethoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]ceph-3-em-4-carboxylic Acid
Oxalyl chloride (0.37 ml.) was added to a solution of N,N-dimethylformamide (0.38 ml) in methylene chloride (10 ml) with stirring under nitrogen at -20°. After ten minutes with ice water cooling, the mixture was recooled to -20° and (Z)-2-cyclopropylmethoxyimino-2-(2-tritylaminothiazol-4-yl)acetic acid (1.94 g) was added and the solution was stirred with ice-water cooling for 10 minutes. The solution was recooled to -20° and added to a solution of (6R,7R)-7-amino-3-carbamoyloxymethylceph-3-em-4-carboxylic acid (1.09 g) in industrial methylated spirits (12 ml) and water (3 ml) containing triethylamine (2.4 ml) at -10° and with vigorous stirring. After five minutes, the solution was partitioned between water and methylene chloride. Dilute hydrochloric acid was added to adjust the aqueous layer to pH >2. The aqueous layer was extracted with more methylene chloride and the combined organic layers were washed with water, dried with magnesium sulphate and evaporated. The residue was triturated with diethyl ether to give the title compound (2.32 g); [α]D21 +15.88° (c 0.69, CHCl3); νmax (Nujol) 3540 to 3100 (NH, NH2, OH, and water), 1785 (β-lactam), 1720 (acid and carbamate) and 1683 and 1510 cm-1 (amide).

reactant | Oxalyl chloride | 0.37 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | 0.38 ml | CN(C=O)C | C3H7NO
reactant | (Z)-2-cyclopropylmethoxyimino-2-(2-tritylaminothiazol-4-yl)acetic acid | 1.94 g | C1(CC1)CO\N=C(/C(=O)O)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H25N3O3S
reactant | (6R,7R)-7-amino-3-carbamoyloxymethylceph-3-em-4-carboxylic acid | 1.09 g | N[C@H]1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O | C9H11N3O5S
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | water | 3 ml | O | H2O
solvent | triethylamine | 2.4 ml | C(C)N(CC)CC | C6H15N
product | (6R,7R)-3-Carbamoyloxymethyl-7-[(Z)-2-cyclopropylmethoxyimino-2-(2-tritylaminothiazol-4-yl)acetamido]ceph-3-em-4-carboxylic Acid | 2.32 g | C(N)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(\C(\C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=N/OCC2CC2)=O)=O | C37H34N6O7S2
